US05858995
A mixture of 3-formyl-2-methyl-7-nitrobenzo[b]furan (1.83 g) and sodium borohydride (200 mg) in methanol (40 ml) was stirred at ambient temperature for 2 hours. The reaction mixture was poured into cold water. The separated oil was extracted with dichloromethane. The extract was washed with brine, dried and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give 3-hydroxymethyl-2-methyl-7-nitrobenzo[b]furan (1.38 g) as a solid.

reactant | 3-formyl-2-methyl-7-nitrobenzo[b]furan | 1.83 g | C(=O)C=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H7NO4
reactant | sodium borohydride | 200 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 3-hydroxymethyl-2-methyl-7-nitrobenzo[b]furan | 1.38 g | OCC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H9NO4
